US07709500B2
1-{(R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-3-o-tolyl-urea
A solution of o-tolylisocyanate (64 ml, 0.51 mmol) in dichloromethane (1 ml) was added to a suspension of (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.15 g, 0.47 mmol) in dichloromethane (3 ml) over a five minute period. After 1 h methanol (1 ml) was added and the solvents removed under vacuum. The residue was purified by reverse phase chromatography (C8 Symmetry column) to give the title compound (87 mg).

reactant | o-tolylisocyanate | 0.51 mmol, 64 ml | C=1(C(=CC=CC1)N=C=O)C | C8H7NO
reactant | (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.47 mmol, 0.15 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | methanol | 1 ml | CO | CH4O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-{(R)-3-[4-(3,4-Dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-3-o-tolyl-urea | 87 mg | ClC=1C=C(OC2CCN(CC2)C[C@@H](CNC(=O)NC2=C(C=CC=C2)C)O)C=CC1Cl | C22H27Cl2N3O3
